US04138581
To a mixture of 26 g. of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride in 200 ml. of N,N-dimethylformamide under an atmosphere of nitrogen there was added 17 g. of sodium methoxide. By distillation under reduced pressure, 50 ml. of liquid was removed and the mixture was then cooled and under an atmosphere of nitrogen 25 g. of isobutyryl chloride was added rapidly at 5-25° C. The reaction mixture was stirred at 25° C. for one hour and then was warmed to 70° C. and the solvent was removed by distillation. The resulting residue was slurried in 400 ml. of diethyl ether, and the slurry was filtered to remove about 10 g. of insoluble solid. The ethereal layer in the filtrate was separated, washed with dilute aqueous sodium hydroxide solution and then with water. There was thus obtained an ether solution of 3,4-bis(isobutyryloxy)phenyl tert-butylaminomethyl ketone. To this solution there was added a solution obtained by adding 4 ml. of hydrochloric acid to 25 ml. of water, and the resulting mixture was shaken. The crystalline solid which formed was collected on a filter and dried at 70° C. There was thus obtained 8.5 g. of 3,4-bis(isobutyryloxy)phenyl tert-butylaminomethyl ketone hydrochloride as a white crystalline powder which melted at 221- 223° C. (dec.)(uncorr.).

reactant | 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | sodium methoxide | C[O-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3,4-bis(isobutyryloxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C(C)C)=O)OC(C(C)C)=O | C20H29NO5
